US07977345B2
To a round bottom flask equipped with a magnetic stir bar was added 4-chloro-1H-pyrazolo[3,4-d]pyrimidine (2.0 g, 12.9 mmol, 1.0 eq.) and ethyl acetate. The mixture was heated to 50° C. After 10 minutes p-toluenesulfonic acid (50 mg) was added, followed by the addition of 2,3-dihydropurane (1.09 g, 15.5 mmol, 1.2 eq). The resulting reaction mixture was heated at 50° C. with stirring for 1 hour and was then cooled to room temperature at which time aqueous ammonia was added. After 5 minutes the organic layer was separated, and washed twice with water (100 ml) and once with brine (100 ml). The ethyl acetate was removed and petroleum ether was added. The mixture was heated and filtered thru cotton. Removal of the petroleum ether in vacuo afforded 4-chloro-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-d]pyrimidine as a light yellow colored solid (2.35 g, 77%). 1H NMR (400 MHz, CDCl3): 8.81(s, 1H), 8.22 (s, 1H), 6.05 (dd, 1H), 4.14 (m, 1H), 3.81 (m, 1H), 2.61 (m, 1H), 2.14 (m, 1H), 1.99 (m, 1H), 1.81 (m, 2H), 1.64 (m, 1H); MS (ESI) for C10H11ClN4O: 239 (MH+).

reactant | 4-chloro-1H-pyrazolo[3,4-d]pyrimidine | 12.9 mmol, 2.0 g, 1.0 eq. | ClC1=C2C(=NC=N1)NN=C2 | C5H3ClN4
reactant | p-toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ammonia | N | H3N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-chloro-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-d]pyrimidine | 2.35 g, 77% | ClC1=C2C(=NC=N1)N(N=C2)C2OCCCC2 | C10H11ClN4O
